Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a pleasant ___ man with past medical
history of hypertension, DVT on Coumadin, and GERD presenting to
the ED for evaluation of confusion.  Neurology consulted for
management given abnormal noncontrast CT.

History obtained from the patient and daughter at the bedside. 
They report he was in his usual state of health which includes
independence in all activities of daily living until 3 days 
prior
to presentation.  At the time he developed a nonspecific 
headache
with associated confusion.  He reports was having some dizziness
which he is unable to describe but denies lightheadedness and
denies room spinning.  He thought it was due to his blood
pressure.  However, his daughter and granddaughter noted that he
was not his usual self he had some difficulty trying to perform
daily tasks at home per the daughter  they noted he has trouble
using the remote control, turning on and off the faucet, 
starting
the car.  More importantly, his granddaughter noticed 3 days ago
that he had difficulty with using his iPad which is uncommon for
him.  Initially, his family thought that he was stress given 
that
he recently lost his wife in ___ and yesterday was their
anniversary.  They report that his speech is fluent but 
sometimes
he has difficulty expressing himself in terms of performing a
coherent sentence.  They also seemed to think that he is having
difficulty with recall, and orientation.  He denies any focal
weakness, numbness, paresthesias.  He denies any visual changes,
nausea vomiting, or unsteadiness.  Of note the report he fell in
___ and fractured his left ankle. At the time he had
head trauma however there were no sequela from this.

ROS: On neurologic review of systems, the patient denies 
difficulty with comprehending speech. Denies loss of vision,
blurred vision, diplopia, vertigo, tinnitus, hearing difficulty,
dysarthria, or dysphagia. Denies focal muscle weakness, 
numbness,
paresthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.

 
Past Medical History:
HTN
LLE DVT on Coumadin
GERD
 
Social History:
___
Family History:
There is no significant family history of neurologic disease,
strokes, seizures that he is aware of.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals:  
T: 98.9
HR: 88 
BP: 184/92 
RR: 18 
SaO2: 97% RA 

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to person and place but
not time. Able to relate history with significant difficulty,
requiring assistance of his daughter.  ___. Speech is
fluent with full sentences, intact repetition, and intact verbal
comprehension.  Reading impaired on stroke card.  Naming intact. 

No paraphasias.  No dysarthria. Normal prosody. No apraxia. No
evidence of hemineglect. No left-right confusion.  Significant
difficulty with two-step commands.

- Cranial Nerves: PERRL 4->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [___]
 L  2+    2+     2+      2+       0
 R  2+    2+     2+      2+       0  

Plantar response mute bilaterally 

- Sensory: No deficits to light touch bilaterally. No extinction
to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Deferred in the setting of LT ankle fracture but per
family has been ambulating with a lip of his LT leg since his
fall in ___.

DISCHARGE PHYSICAL EXAM
Vitals:
HR 80 T 97.8 BP 128/85 RR 16 SpO2 98%

General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history with
some difficulty. Not able to name ___ backwards. Attention was 
poor.
Language is fluent with intact repetition and comprehension.
Normal prosody. Pt was able to name both high and low frequency
objects.  Able to read without difficulty. Speech was not
dysarthric. There was no evidence of neglect. Could not follow 2
step commands. Not able to perform basic calculations (was not
able to state what 4+2 was). Able to read a sentence, though
slowly. 

-Cranial Nerves:
 II, III, IV, VI:  L 3.5->2, R 3->2. EOMI without nystagmus.
Normal saccades. VFF to confrontation. Visual acuity ___
bilaterally. Fundoscopic exam revealed no papilledema, exudates,
or hemorrhages. 7 beats nystagmus on left gaze that extinguish.
VFF to confrontation. saccadic intrusions present.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. 
 No adventitious movements, such as tremor, noted. No asterixis
noted. no orbiting. pronator drift on R
   Delt Bic Tri WrE  FE IO IP Quad Ham TA ___ 
 L  4+   ___    ___   5    5  5     5     5   
 R  5    ___    ___   5    5  5     5     5   

-Sensory: No deficits to light touch. No extinction to DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: deferred

 
Pertinent Results:
___ 07:05AM BLOOD WBC-6.9 RBC-5.16 Hgb-14.5 Hct-44.4 MCV-86 
MCH-28.1 MCHC-32.7 RDW-13.6 RDWSD-42.9 Plt ___
___ 08:34PM BLOOD ___ PTT-58.9* ___
___ 06:50AM BLOOD ___ PTT-31.7 ___
___ 07:05AM BLOOD ___ PTT-28.0 ___
___ 07:05AM BLOOD Glucose-105* UreaN-16 Creat-1.0 Na-142 
K-4.4 Cl-101 HCO3-25 AnGap-16
___ 06:50AM BLOOD ALT-14 AST-15 LD(LDH)-221 CK(CPK)-64 
AlkPhos-90 TotBili-0.7
___ 06:50AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:05AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.2
___ 06:50AM BLOOD %HbA1c-5.4 eAG-108
___ 06:50AM BLOOD Triglyc-70 HDL-44 CHOL/HD-4.4 
LDLcalc-135*
___ 08:34PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? () Yes - (x) No
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No

___ is a ___ yo man with medical history of hypertension,
GERD, and DVT on Coumadin presenting with confusion,
disorientation, and inability to perform complex tasks, 
calculations. Patient was found to have a 3.9 cm left parietal 
lobe hematoma, explaining the deficits. Patient's INR was 5.0 on 
admission and BP was 185/90. INR reversed with kcentra, was 1.4 
the following day. It was felt the bleed may have been 
spontaneous  due to his supratherapeutic INR. Given the lobar 
location, less likely to be due to hypertension. An MRI was 
performed to further assess the area. It was unclear whether 
there was an underlying mass per radiology read. A follow up MRI 
brain w/ and w/o contrast was ordered for 3 months from now 
after resolution of the bleed. CAA was also a possible etiology, 
given his age and lobar location of the bleed. Given that he 
might have amyloid angiopathy, which would increase his bleeding 
risk, we recommended that he stop his warfarin. Aspirin 81 mg 
daily was started for the interim. It is recommended that he see 
his primary care doctor and be referred to hematology to review 
whether or not he needs lifelong anticoagulation for his 
previous DVT given his bleed this admission. His blood pressure 
remained controlled on his home losartan 100 mg daily dose while 
he was admitted. He initially was placed on a nicardipine drip 
for SBP goals, but quickly transitioned to orals. The patient 
was seen by ___ who recommended that the patient be discharged 
home with 24 hour care and home services, which he was. At time 
of discharge, patient continued to have difficulty with complex 
tasks, 2 step commands, calculations.

IMAGING:
MRI brain ___
"1. 3.9 cm left parietal lobe are hematoma, likely acute to 
early subacute with 
surrounding vasogenic edema demonstrates rim enhancement, 
unclear if 
compression of the adjacent brain tissue versus underlying mass. 
 Follow-up 
with repeat imaging is recommended after resolution of hematoma. 

2. Multiple other foci of susceptibility on GE images consistent 
with micro 
hemorrhages the right parietal lobe and left cerebellum also 
raises question 
for possible amyloid angiopathy. "

CT Head ___
"1. No significant interval change of the left parietal lobar 
hematoma with 
adjacent vasogenic edema.  Mass effect and 2 mm rightward 
midline shift are 
stable. "

CT Head ___
4 cm acute intraparenchymal hemorrhage within the left parietal 
lobe with 
intraventricular extension and minimal rightward shift of 
normally midline 
structures by 2 mm. "
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 10 mg PO 6X/WEEK (___) 
2. Losartan Potassium 100 mg PO DAILY 
3. Omeprazole 40 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 (One) tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
2.  Losartan Potassium 100 mg PO DAILY  
3.  Omeprazole 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Unable to follow complex commands. Reading is slower, has 
difficulty with calculations. 

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of confusion, 
disorientation resulting from an intraparenchymal hemorrhage, a 
bleed in your brain. The presence of a bleed in your your brain 
can cause areas of your brain to lose oxygen and nutrients. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
When you were admitted, your INR (measure of how thin your bleed 
is from the warfarin) was elevated, it was 5, your INR should be 
between ___ while you are on warfarin. You were also 
hypertensive (your blood pressure was around 180/90 when you 
came into the hospital). A normal blood pressure is around 
120/70. Both these factors likely contributed to your bleed. We 
performed a MRI to see if there was anything else contributing 
to the bleed. Because of the blood that was present, it was 
difficult to assess whether or not there was anything there and 
a follow up MRI of your brain after the blood is reabsorbed is 
recommended in 3 months.

We stopped your warfarin. Please see your primary care provider 
and ___ hematologist (blood doctor), who can make a decision on 
whether this should be restarted for you. In the interim you 
should start taking a baby aspirin every day (aspirin 81 mg 
daily)
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___